US04785017
A 1.1 g sample of racemic ethyl 7-hydroxychroman-2-carboxylate was treated with 10 ml of 1:1 acetic anhydride-pyridine and stirred for 17 hours at room temperature. After removal of the solvents, the residual product (1.2 g) was dissolved in 12 ml of glacial acetic acid and treated with 1.26 ml of borontrifluoride etherate. The reaction mixture was gently refluxed for 17 hours, cooled, poured carefully into a mixture of sodium bicarbonate and ice and the product extracted with 1:1 tetrahydrofuran-ether. After evaporation of the solvent, 1.1 g of crude racemic-7-hydroxy-6-acetylchroman-2-carboxylic acid was obtained. Conversion of this material into the corresponding ethyl ester was achieved by refluxing 1.1 g of the crude acid in absolute ethanol in the presence of 10 mg of p-toluenesulfonic acid for 17 hours. After removal of most of the solvent, the product was extracted with 1:1 tetrahydrofuran-ether, washed with saturated sodium bicarbonate solution, water, dried and the solvents concentrated to give 1.2 g of crude ethyl ester as a mixture of the 6-acetyl and 8-acetyl derivatives in a ratio of about 7:1. This material was purified by column chromatography on silica gel to afford 0.7 g (53.5%) of racemic-6-acetyl-3,4-dihydro-7-hydroxy-2H-1-benzopyran-2-carboxylic acid ethyl ester as a colorless crystalline material mp 93.5°-95.5° C. (from ethyl acetate-hexane).

reactant | racemic ethyl 7-hydroxychroman-2-carboxylate | OC1=CC=C2CCC(OC2=C1)C(=O)OCC | C12H14O4
reactant | acetic anhydride pyridine | 10 ml | C(C)(=O)OC(C)=O.N1=CC=CC=C1
product | racemic-7-hydroxy-6-acetylchroman-2-carboxylic acid | 1.1 g | OC1=C(C=C2CCC(OC2=C1)C(=O)O)C(C)=O | C12H12O5
